Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Earache, fever
 
Major Surgical or Invasive Procedure:
Bone marrow biopsy ___

 
History of Present Illness:
Mr. ___ is a ___ year old ___ speaking male with a hx of 
NIDDM not on any medications who presents with 3 days of right 
throat pain. An interpreter via language line was used to 
interview patient when he arrived to the floor. Patient was in 
his usual state of health until 2 weeks ago when he started 
having diarrhea. His diarrhea resolved, but he continued to feel 
weeks. About 1 week PTA patient reports that he started having 
upper respiratory symptoms with congestion and head pressure. 
Three days PTA patient started noticing a sore throat. He 
reports subjective fever. He continued to feel worse and so he 
presented to ___ ED for further evaluation. He reports a 
prominent cough that has worsened over the past 2 days. Denies 
SOB when not coughing. No hemoptysis. He also reports nausea 
with dry heaving. He is passing gas and having formed stools. 
Denies abd pain.  
Of note, patient has a history of leukopenia and had been seen 
by heme/onc for it in ___. At that time the differential was 
broad and a workup was initiated to look at viral and autoimmune 
causes. Viral serologies (hepatitis, HIV) were negative, 
stongyloides was negative, iron studies were WNL, and ESR was 
wnl making auto-immune etiologies unlikely. His Ranitidine was 
held for potential drug reaction. Patient was lost to follow up. 
He reports that he has never seen a doctor again about his low 
WBC count and that they never determined an etiology.  
Regarding his history of DM, patient had been on metformin but 
was taken off that medication ___ years ago. Patient states that 
the only doctor he follows with is a diabetes doctor and that he 
has not needed medications.  
 
In the ED, initial vitals were: 98.5 90 123/71 18 100% RA  
Exam notable for Right peritonsillar erytham without edema or 
uvular deviation, no mastoid ttp  
Labs showed wbc of 1.2 from 3.4 at last check (___), diff 
notable for ANC of .14 c/w severe neutropenia. Patient also with 
absolute lymphopenia. Patient has normal absolute Eos which is 
improved from prior which was elevated. Hgb of 13.5 which is 
stable with prior. Platelets of 246, also stable. Chem panel 
notable for glucose of 478.  
Imaging showed CXR with bibasilar opacities c/w atelectasis and 
low lung volumes. Also showed dilated loops of small bowel.  
CT Neck showed:  
1. Edema and swelling of the right palatine tonsil with 
surrounding fat stranding, causing partial effacement of the 
right piriform sinus. Notably, no circumscribed fluid collection 
concerning for abscess is detected.  
2. Punctate left palatine tonsilliths.  
3. Incidental note of a 2 mm right upper lobe pulmonary nodule 
with  
surrounding ground-glass (2:91). By ___ Society 
guidelines, if the patient is high risk for malignancy, 
follow-up chest CT can be obtained in 12 months to evaluate 
stability.  
Received amp/sulbactam x2 doses  
 
Transfer VS were 99.4 95 ___ 97% RA  
H/O were consulted and recommended HIV, EBV, monospot, smear for 
admission. ENT was consulted and did not believe an intervention 
was warranted based on CT findings.  
 
Past Medical History:
NIDDM  
Leukopenia  

 
Social History:
___
Family History:
Father with abnormal white count/low blood counts that required 
transfusion of platelets (pt does not know his diagnosis); uncle 
with leukemia, unknown type; mother with hypertension. 

 
Physical Exam:
ADMISSION:
#ERROR!
Vital Signs: 101.5 PO 118 / 75 L Lying ___ RA  
General: Alert, oriented. Speaking in full sentences. 
Diaphoretic.  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
NECK: Right anterior cervical fullness with TTP. No clear LAD.  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Coughing. Clear to auscultation bilaterally, no wheezes, 
rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE:
#ERROR!
VS: 97.6 PO ___ 18 99 ra 
I/O: Not recorded 
PEx: 
General: AOx3. Sitting comfortably in bed. 
HEENT: NCAT, Sclerae anicteric, EOMI, PERRL, MM, OP clear 
NECK: No tenderness to palpation or LAD. 
CV: RRR, S1 + S2, no m/r/g 
Lungs: Occasional dry cough. CTAB, no w/r/r 
Abdomen: Soft, NTND, BS+, no organomegaly, no rebound or 
guarding 
GU: No foley 
Ext: WWP, 2+ pulses, no c/c/e. Stable 1-2 cm patches on shin; BM 
Bx site healing, mildly tender 
Neuro: CNII-XII intact, grossly normal sensation, ambulating 
around room. 
 
Pertinent Results:
ADMISSION:
#ERROR!

___ 03:45PM BLOOD WBC-1.2*# RBC-5.45 Hgb-13.5* Hct-41.8 
MCV-77* MCH-24.8* MCHC-32.3 RDW-11.9 RDWSD-32.4* Plt ___
___ 03:45PM BLOOD Neuts-11.8* Lymphs-70.6* Monos-10.9 
Eos-5.0 Baso-1.7* AbsNeut-0.14* AbsLymp-0.84* AbsMono-0.13* 
AbsEos-0.06 AbsBaso-0.02
___ 06:29AM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Ovalocy-OCCASIONAL 
Burr-OCCASIONAL Tear Dr-OCCASIONAL
___ 06:29AM BLOOD ___ PTT-34.5 ___
___ 03:45PM BLOOD Glucose-478* UreaN-14 Creat-0.7 Na-134 
K-4.1 Cl-96 HCO3-23 AnGap-19
___ 06:29AM BLOOD Calcium-9.3 Phos-4.6* Mg-1.8 Iron-25*
___ 06:29AM BLOOD calTIBC-257* Ferritn-642* TRF-198*
___ 06:29AM BLOOD %HbA1c-11.2* eAG-275*
___ 04:27PM BLOOD ___ pO2-67* pCO2-36 pH-7.46* 
calTCO2-26 Base XS-1 Intubat-NOT INTUBA
___ 04:27PM BLOOD O2 Sat-92

OTHER PERTINENT LABS:
#ERROR!
___ 06:29AM BLOOD WBC-1.3* RBC-5.32 Hgb-13.2* Hct-41.2 
MCV-77* MCH-24.8* MCHC-32.0 RDW-11.9 RDWSD-33.3* Plt ___
___ 06:29AM BLOOD Neuts-22* Bands-25* ___ Monos-12 
Eos-1 Baso-0 ___ Metas-2* Myelos-0 AbsNeut-0.61* 
AbsLymp-0.49* AbsMono-0.16* AbsEos-0.01* AbsBaso-0.00*
___ 06:29AM BLOOD WBC-0.8* RBC-4.97 Hgb-12.4* Hct-38.0* 
MCV-77* MCH-24.9* MCHC-32.6 RDW-11.9 RDWSD-32.7* Plt ___
___ 06:29AM BLOOD Neuts-11* Bands-1 Lymphs-69* Monos-15* 
Eos-3 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-0.10* 
AbsLymp-0.55* AbsMono-0.12* AbsEos-0.02* AbsBaso-0.00*
___ 06:54AM BLOOD WBC-1.1* RBC-5.22 Hgb-13.0* Hct-39.9* 
MCV-76* MCH-24.9* MCHC-32.6 RDW-11.8 RDWSD-32.4* Plt ___
___ 06:54AM BLOOD Neuts-3* Bands-3 Lymphs-72* Monos-14* 
Eos-4 Baso-0 Atyps-2* Metas-2* Myelos-0 AbsNeut-0.07* 
AbsLymp-0.81* AbsMono-0.15* AbsEos-0.04 AbsBaso-0.00*
___ 06:28AM BLOOD WBC-1.3* RBC-5.15 Hgb-13.4* Hct-39.2* 
MCV-76* MCH-26.0 MCHC-34.2 RDW-11.9 RDWSD-32.6* Plt ___
___ 06:28AM BLOOD Neuts-4* Bands-0 Lymphs-78* Monos-9 Eos-6 
Baso-0 ___ Myelos-3* AbsNeut-0.05* AbsLymp-1.01* 
AbsMono-0.12* AbsEos-0.08 AbsBaso-0.00*
___ 06:30AM BLOOD WBC-1.7* RBC-5.34 Hgb-13.8 Hct-40.5 
MCV-76* MCH-25.8* MCHC-34.1 RDW-11.8 RDWSD-31.9* Plt ___
___ 06:30AM BLOOD Neuts-11* Bands-1 Lymphs-65* Monos-14* 
Eos-4 Baso-0 Atyps-1* Metas-4* Myelos-0 AbsNeut-0.20* 
AbsLymp-1.12* AbsMono-0.24 AbsEos-0.07 AbsBaso-0.00*
___ 06:45AM BLOOD WBC-1.9* RBC-5.61 Hgb-13.9 Hct-42.7 
MCV-76* MCH-24.8* MCHC-32.6 RDW-11.8 RDWSD-31.9* Plt ___
___ 06:45AM BLOOD Neuts-7* Bands-3 Lymphs-62* Monos-13 
Eos-5 Baso-2* ___ Metas-3* Myelos-5* AbsNeut-0.19* 
AbsLymp-1.18* AbsMono-0.25 AbsEos-0.10 AbsBaso-0.04
___ 06:25AM BLOOD WBC-2.0* RBC-5.74 Hgb-14.4 Hct-43.3 
MCV-75* MCH-25.1* MCHC-33.3 RDW-11.9 RDWSD-31.8* Plt ___
___ 06:25AM BLOOD Neuts-6* Bands-0 Lymphs-76* Monos-11 
Eos-4 Baso-0 ___ Metas-2* Myelos-1* AbsNeut-0.12* 
AbsLymp-1.52 AbsMono-0.22 AbsEos-0.08 AbsBaso-0.00*
___ 07:00AM BLOOD WBC-1.8* RBC-5.59 Hgb-14.2 Hct-42.3 
MCV-76* MCH-25.4* MCHC-33.6 RDW-12.0 RDWSD-32.1* Plt ___
___ 07:00AM BLOOD Neuts-12* Bands-1 Lymphs-74* Monos-3* 
Eos-4 Baso-0 Atyps-6* ___ Myelos-0 AbsNeut-0.23* 
AbsLymp-1.44 AbsMono-0.05* AbsEos-0.07 AbsBaso-0.00*

MICRO:
#ERROR!
___ 3:45 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

Time Taken Not Noted     Log-In Date/Time: ___ 7:03 pm
      SEROLOGY/BLOOD

                            **FINAL REPORT ___

   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 

Time Taken Not Noted     Log-In Date/Time: ___ 7:03 pm
      Blood (EBV)

                            **FINAL REPORT ___

   ___ VIRUS VCA-IgG AB (Final ___: 
      POSITIVE BY CHEMILUMINESCENT IMMUNOASSAY. 
      TEST PERFORMED AT ___. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

___ 12:26 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
 
___ 6:29 am BLOOD CULTURE      1 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 12:45 pm BLOOD CULTURE      2 OF 2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING:
#ERROR!
___ 5:49 ___ 
CHEST (PA & LAT) 
IMPRESSION:  
Mild patchy bibasilar opacities, likely atelectasis in the 
setting of low lung volumes. Dilated small bowel loops in the 
left upper quadrant for which clinical correlation is 
recommended, and dedicated abdominal radiographs can be obtained 
further assessment if there is concern for small bowel 
obstruction. 

___ 8:23 ___ 
CT NECK W/CONTRAST (EG:PAROTID 
IMPRESSION:  
1.  Hyperemia and enlargement of the right palatine tonsil and 
compatible with tonsillitis with surrounding fat stranding and 
right lateral pharyngeal wall thickening with partial effacement 
of the right piriform sinus.  Notably, no fluid collection 
concerning for an abscess is detected. 
2.  Punctate left palatine tonsilliths. 
3.  Incidental note of a 2 mm right upper lobe pulmonary nodule 
with 
surrounding ground-glass, likely inflammatory or infectious in 
etiology.  By ___ Society guidelines, if the patient is 
high risk for malignancy, follow-up chest CT can be obtained in 
12 months to evaluate stability.   
RECOMMENDATION(S):   By ___ Society guidelines, if the 
patient is high risk for malignancy, follow-up chest CT can be 
obtained in 12 months to evaluate stability of the right upper 
lobe nodule. 

PATHOLOGY:
#ERROR!
Date of Procedure: ___
FISH: NEGATIVE MULTIPLE MYELOMA PANEL.
CYTOGENETICS REPORT - Final
CYTOGENETIC DIAGNOSIS: 46,XY[20] Normal male karyotype.

DISCHARGE:
#ERROR!
___ 07:00AM BLOOD WBC-1.8* RBC-5.59 Hgb-14.2 Hct-42.3 
MCV-76* MCH-25.4* MCHC-33.6 RDW-12.0 RDWSD-32.1* Plt ___
___ 07:00AM BLOOD Neuts-12* Bands-1 Lymphs-74* Monos-3* 
Eos-4 Baso-0 Atyps-6* ___ Myelos-0 AbsNeut-0.23* 
AbsLymp-1.44 AbsMono-0.05* AbsEos-0.07 AbsBaso-0.00*
___ 07:00AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Schisto-OCCASIONAL Tear 
Dr-1+
___ 07:00AM BLOOD ___ PTT-32.9 ___
___ 07:00AM BLOOD Glucose-254* UreaN-16 Creat-0.6 Na-133 
K-4.5 Cl-96 HCO3-24 AnGap-18
___ 07:00AM BLOOD Calcium-9.5 Phos-3.8 Mg-1.___ with hx of leukopenia (seen at ___ in ___, lost to f/u) 
and DM (not on outpatient meds for past ___ yrs) presents with 
fevers, sore throat and neutropenia. Evaluation in ED included 
CT head/neck, which showed R tonsillitis; CBC/diff notable for 
WBC 1.2k, Hgb 13.5, MCV 77, ANC 140. Treated with Unasyn in ER, 
then broadened to Vanc/Zosyn on admission, narrowed to Augmentin 
after 24 hours of remaining clinically stable. Persistently low 
WBC and ANC, nadir 66 on ___. Heme consulted, performed BM 
Bx ___. Results of BM Bx normal. On discharge, planned H/O 
f/u ___ will need CBC/diff at follow-up w/ PCP ___ ___. 

Additionally, A1c was 11.4. Started on ISS while inpatient, 
discharged w/ metformin 500mg BID. 

He is free care pharmacy and we sent for his meds today 
(Metformin and Augmentin) prior to discharge. Paperwork for 
Medicaid started prior to discharge

TRANSITIONAL ISSUES:
#ERROR!
[] ANTIBIOTICS: Needs to complete 10d tx for tonsillitis - d10 
___
[] DIABETES: A1c 11.2 here. No meds ___ yrs. Discharged on 
metformin, though would consider initiation of insulin given 
high A1c.. Will need free care pharmacy to dispense meds until 
___
[] LEUKOPENIA, NEUTROPENIA: Noted in ___, lost to follow-up. 
Presented w/ WBC ~1k, ANC 400. Had BMBx here. Planned f/u w/ 
___ Benign ___ clinic on ___. Please obtain CBC w/ diff in 
meantime.
[] f/u finalized bone marrow biopsy report, pending at discharge
[] LUNG NODULE: Incidental note of a 2 mm right upper lobe 
pulmonary nodule with surrounding ground-glass, likely 
inflammatory or infectious in etiology. By ___ 
guidelines, if the patient is high risk for malignancy, 
follow-up chest CT can be obtained in 12 months to evaluate 
stability.
[] SOCIAL SUPPORT: Multiple conversations while admitted. Given 
paperwork for Medicaid.
[] HEALTH LITERACY: Needs reinforcement that medications need to 
be taken for entire, not just until resolution of symptoms, 
e.g., abx for full 10-day course and metformin (or other insulin 
mgmt.) for life
Discharge CBC: 1.8 > 14.2 / 42.3 < 294 
Discharge Neut%, ANC: 12%, 230
# CODE: Full, presumed. 
# CONTACT: Patient 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 3 Doses 

RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*14 Tablet Refills:*0 
2.  MetFORMIN (Glucophage) 500 mg PO BID 
RX *metformin 500 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild  
4.Outpatient Lab Work
Please obtain CBC with differential
ICD-10: D70.9 Neutropenia, unspecified
Provider: ___, MD; Fax: ___
Provider: ___, MD: Fax: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
#ERROR!
Tonsillitis
Neutropenia
Diabetes mellitus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to ___ because you had 
an earache that was not getting better.

What was done during this hospitalization?
- We did studies of the blood and took a CT scan of your neck 
that showed you had an infection. You received antibiotics for 
this. You need to take 1 more day of medication, more pills for 
this.
- We found you have low blood counts. You were seen by the blood 
specialists (Hematology/Oncology) who did a bone marrow biopsy 
to try to understand this.
- Your blood sugar levels were high. You received insulin for 
this while in the hospital. You are being sent home with the 
medication called metformin, that you need to take two times per 
day.

What should you do now that you are leaving the hospital?
- Take your medications as prescribed
- Attend the follow-up doctor appointments listed below
- Return to the Emergency Department or call your doctor if you 
have any concerning symptoms including fever > 100.5 F, unable 
to chew or swallow food, difficulty breathing, or get 
lightheaded and fall

It was a pleasure taking care of you. Wishing you the best in 
health!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___